US07112610B2
(3S,5R)-5-Methyl-3-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidine-3-carbonyl)-nonanoic acid tert-butyl ester.
To a solution of diisopropylamine (1.8 mL, 12.6 mmol) in 30 mL THF at −78° C. was added n-butyllithium (1.6 M soln in hexanes, 7.6 mL, 12.1 mmol), and the mixture stirred 10 minutes at which time (4R,5S)-4-Methyl-3-((R)-4-methyl-octanoyl)-5-phenyl-oxazolidin-2-one (3.2 g, 10.1 mmol) in 10 mL THF was added dropwise. The solution was stirred for 30 minutes, t-butyl bromoacetate (1.8 mL, 12.1 mmol) was added quickly dropwise at −50° C., and the mixture was allowed to warm slowly to 10° C. over 3 hours. The mixture was partitioned between Et2O and sat. NH4Cl (aq), the phases were separated, and the organic phase dried (MgSO4), and concentrated. The residue was purified by flash chromatography (16:1 to 8:1 hexanes:EtOAc) to provide 2.65 g (61%) of the titled compound as a colorless crystalline solid, mp=84–86° C. [α]D23+17.1 (c=1.00, CHCl3); 1H NMR (400 MHz; CDCl3): δ 7.34 (m, 5H), 5.62 (d, J=7.3 Hz, 1H), 4.73 (quint, J=6.8 Hz, 1H), 4.29 (m, 1H), 2.67 (dd, J=9.8, 16.4 Hz, 1H), 2.40 (dd, J=5.1, 16.4 Hz, 1H), 1.69 (m, 1H), 1.38 (s, 9H), 1.28 (m, 7H), 1.08 (m, 1H), 0.88 (m, 9H); 13C NMR (400 MHz; CDCl3) δ 176.45, 171.22, 152.71, 133.64, 128.86, 125.86, 80.83, 78.87, 55.33, 40.02, 38.21, 37.59, 36.31, 30.86, 29.29, 28.22, 23.14, 20.41, 14.36, 14.26. Anal. Calcd for C25H37NO5: C, 69.58; H, 8.64; N, 3.25. Found: C, 69.37; H, 8.68; N, 3.05.

reactant | diisopropylamine | 12.6 mmol, 1.8 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (4R,5S)-4-Methyl-3-((R)-4-methyl-octanoyl)-5-phenyl-oxazolidin-2-one | 10.1 mmol, 3.2 g | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(CC[C@@H](CCCC)C)=O | C19H27NO3
reactant | t-butyl bromoacetate | 12.1 mmol, 1.8 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (3S,5R)-5-Methyl-3-((4R,5S)-4-methyl-2-oxo-5-phenyl-oxazolidine-3-carbonyl)-nonanoic acid tert-butyl ester | 2.65 g, 61% | C(C)(C)(C)OC(C[C@H](C[C@@H](CCCC)C)C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)=O | C25H37NO5
